US03991086
450.5 g of geranylmalonic ester, 34.9 g of sodium and 227.3 g of diethylaminopropylchloride (b.p., 73°-78° C/20 mm) isolated from 423.3 g of hydrochloride, are heated in toluene to obtain 329.4 g of diethylaminopropylgeranylmalonic ester having a boiling point of 185°-210° C/2 mm, n20 1.4709. The 329.4 grams of diethylaminopropylgeranylmalonic ester are saponified with a concentrated solution of potassium hydroxide in alcohol to prepare 524.7 g of moist diethylaminopropylgeranylmalonic acid. The diethylaminopropylgeranylmalonic acid, either moist or dried, is then decarboxylated in vacuum (after dehydration of the acid in vacuum). 156 g of diethylaminopropylgeranylacetic acid are produced. The boiling point of the acid is 190°-200° C/2 mm, n20 1.4951.

reactant | potassium hydroxide | [OH-].[K+]
reactant | diethylaminopropylgeranylmalonic acid | 524.7 g | C(C)N(CC)CCCC/C(=C/CC/C(=C/CC(C(=O)O)C(=O)O)/C)/C | C20H35NO4
product | diethylaminopropylgeranylacetic acid | 156 g | C(C)N(CC)CCCC/C(=C/CC/C(=C/CCC(=O)O)/C)/C | C19H35NO2
